US06258775B1
(a) Methyl 3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylcarbonyl)benzoate.
A solution of 3-iodophenyl-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)methanone (10.5 g, 25.1 mmol), palladium diacetate (564 mg, 2.5 mmol) and tributylamine (12 ml, 50.5 mmol) in methanol (500 ml) is heated for 3 h at 100° C. under a pressure of carbon monoxide (3 bar). After concentration on an evaporator under vacuum at 40° C., the oil obtained is diluted in ethyl acetate and washed three times with water. The product is purified by flash chromatography on a column of silica.

reactant | 3-iodophenyl-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)methanone | 25.1 mmol, 10.5 g | IC=1C=C(C=CC1)C(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C21H23IO
reactant | tributylamine | 50.5 mmol, 12 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | carbon monoxide | [C]=O | CO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium diacetate | 2.5 mmol, 564 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | Methyl 3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylcarbonyl)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)C=1C=C(C(=O)OC)C=CC1)C | C23H26O3
